US07786129B2
3-(4-Chlorobutyl)-3-ethyl-7-methyl-1,3-dihydro-2H-indol-2-one
The title compound is prepared according to process E starting from 3-ethyl-7-methyl-1,3-dihydro-2H-indol-2-one and 1-bromo-4-chloro-butane.

reactant | 3-ethyl-7-methyl-1,3-dihydro-2H-indol-2-one | C(C)C1C(NC2=C(C=CC=C12)C)=O | C11H13NO
reactant | 1-bromo-4-chloro-butane | BrCCCCCl | C4H8BrCl
product | 3-(4-Chlorobutyl)-3-ethyl-7-methyl-1,3-dihydro-2H-indol-2-one | ClCCCCC1(C(NC2=C(C=CC=C12)C)=O)CC | C15H20ClNO
